US08012976B2
To a stirred mixture of 3-formylbenzoic acid (450 mg, 3 mmol) in anhydrous dichloromethane (20 mL) was added triethylamine (758 mg, 7.5 mmol), 1-hydroxybenzotriazole (466 mg, 3.45 mmol), followed by 1-ethyl-3-(3-dimethylamino propyl) carbodiimide hydrochloride (629 mg, 3.45 mmol). After the addition, the mixture was stirred at room temperature for 40 mins. Then the mixture was cooled to 0° C. and cyclopropyl(piperazin-1-yl)methanone hydrochloride (629 mg, 3.3 mmol) was added in portion-wise. After the addition, the mixture was allowed to stir at room temperature overnight. The mixture was diluted with dichloromethane (50 mL), washed with saturated citric acid (100 mL×2), followed by saturated sodium bicarbonate (100 mL×2), brine (50 mL), dried over anhydrous sodium sulfate, and concentrated to give 3-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)benzaldehyde (810 mg, yield 94%) as a light yellow oil. 1H-NMR (400 MHz, CDCl3) δ (ppm): 0.79-0.85 (m, 2H), 1.00-1.04 (m, 2H), 1.73-1.76 (m, 1H), 3.47-3.77 (m, 8H), 7.62-7.66 (t, J=7.6 Hz, 1H), 7.70-7.72 (d, J=7.6 Hz, 1H), 7.95-7.98 (m, 2H), 10.1 (s, 1H); LC-MS (ESI) m/z: 287 (M+1)+.

reactant | 3-formylbenzoic acid | 3 mmol, 450 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | triethylamine | 7.5 mmol, 758 mg | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 3.45 mmol, 466 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylamino propyl) carbodiimide hydrochloride | 3.45 mmol, 629 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | cyclopropyl(piperazin-1-yl)methanone hydrochloride | 3.3 mmol, 629 mg | Cl.C1(CC1)C(=O)N1CCNCC1
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)benzaldehyde | 810 mg, yield 94% | C1(CC1)C(=O)N1CCN(CC1)C(=O)C=1C=C(C=O)C=CC1 | C16H18N2O3
